US04634710
A solution of 15 g of 2,3-dimethylpyridine 1-oxide in 75 ml of chloroform was boiled at reflux and treated as rapidly as possible with 37 ml of trichloroacetyl chloride (the acid chloride was added through the reflux condenser). The reaction mixture was heated under reflux for 2.5 hours, subsequently poured into a mixture of ice and sodium bicarbonate and the resulting solution was washed several times with methylene chloride. The organic phase was dried with sodium sulfate, filtered and concentrated. The residue was chromatographed on silica gel with methylene chloride, the medium pressure flash chromatography method being used and the pressure being produced with nitrogen gas. The 2-chloromethyl-3-methylpyridine obtained was processed directly.

reactant | 2,3-dimethylpyridine 1-oxide | 15 g | CC1=[N+](C=CC=C1C)[O-] | C7H9NO
reactant | trichloroacetyl chloride | 37 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-3-methylpyridine | ClCC1=NC=CC=C1C | C7H8ClN
